US09238639B2
Ethyl(6-((2,4-dichlorobenzyl)oxy)-2,3-dihydro-1-benzothiophen-3-yl)acetate
To a solution of ethyl(6-hydroxy-2,3-dihydro-1-benzothiophen-3-yl)acetate (17.2 g) in DMF (300 mL) were added 2,4-dichlorobenzyl chloride (17.0 g) and K2CO3 (15.0 g) and the resulting solution was stirred at 20° C. for 72 h. The mixture was diluted with EtOAc, washed successively with water and brine. The organic layer was dried over Na2SO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography (PE/EtOAc) to give the title compound (19.6 g).

reactant | ethyl(6-hydroxy-2,3-dihydro-1-benzothiophen-3-yl)acetate | 17.2 g | C(C)OC(CC1CSC2=C1C=CC(=C2)O)=O | C12H14O3S
reactant | 2,4-dichlorobenzyl chloride | 17.0 g | ClC1=C(CCl)C=CC(=C1)Cl | C7H5Cl3
reactant | K2CO3 | 15.0 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Ethyl(6-((2,4-dichlorobenzyl)oxy)-2,3-dihydro-1-benzothiophen-3-yl)acetate | 19.6 g | C(C)OC(CC1CSC2=C1C=CC(=C2)OCC2=C(C=C(C=C2)Cl)Cl)=O | C19H18Cl2O3S
